US04281121
5-methylsulfonyl-1,3,4-thiadiazole-2-carboxylic acid cyclohexylmethylamide
20.3 g of 5-methylthio-1,3,4-thiadiazole-2-carboxylic acid cyclohexylmethylamide were dissolved in 130 ml acetic acid and 25 ml water. 16 g pulverized potassium permanganate was then introduced upon stirring to cause the temperature to increase to 70° C. Thereafter, stirring was continued for 30 minutes. The mixture was cooled and then mixed with 300 ml ice water. The formed manganese dioxide was reduced with a solution of 14.3 g sodium metabisulfite in 100 ml water. The precipitated compound was removed by suction and recrystallized from ethanol.

reactant | 5-methylthio-1,3,4-thiadiazole-2-carboxylic acid cyclohexylmethylamide | 20.3 g | C1(CCCCC1)CNC(=O)C=1SC(=NN1)SC | C11H17N3OS2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium metabisulfite | 14.3 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
solvent | water | 100 ml | O | H2O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 5-methylsulfonyl-1,3,4-thiadiazole-2-carboxylic acid cyclohexylmethylamide | C1(CCCCC1)CNC(=O)C=1SC(=NN1)S(=O)(=O)C | C11H17N3O3S2
